US08604061B2
In analogy to example 1b (S)-2-amino-3-methyl-4-phenyl-butan-1-ol was reacted with cyanogen bromide to give (S)-4-(1-methyl-2-phenyl-ethyl)-4,5-dihydro-oxazol-2-ylamine. Off-white amorphous solid.

reactant | (S)-2-amino-3-methyl-4-phenyl-butan-1-ol | N[C@H](CO)C(CC1=CC=CC=C1)C | C11H17NO
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-(1-methyl-2-phenyl-ethyl)-4,5-dihydro-oxazol-2-ylamine | CC(CC1=CC=CC=C1)[C@@H]1N=C(OC1)N | C12H16N2O
